US07608639B2
3-[4-(5-Methoxy-2-methyl-phenoxy)-2-methyl-phenyl]-acrylic acid ethyl ester
The compounds of 5-methoxy-2-methyl-phenol (1.46 g, 9.60 mmol), 3-(4-fluoro-2-methyl-phenyl)-acrylic acid ethyl ester (1.00 g, 4.80 mmol), potassium carbonate (1.33 g, 9.60 mmol) are dissolved in dimethylsulfoxide (12 mL) under nitrogen, and the mixture is stirred overnight at 140° C. HCl 10% is added, and the mixture is extracted with diethyl ether. The organic layer is washed with water, dried (Na2SO4) and filtered, and then the solvent is evaporated in vacuo. Purification by flash chromatography by eluting with hexane:ethyl acetate 10:1 to afford the title compound (0.74 g, 47%). Rf=0.44 (hexane:ethyl acetate 5:1). 1H NMR (300 MHz, CDCl3): δ1.34 (t, 3H, J=7.3 Hz), 2.13 (s, 3H), 2.40 (s, 3H), 3.74 (s, 3H), 4.26 (q, 2H, J=7.1 Hz), 6.28 (d, 1H, J=15.9 Hz), 6.53 (d, 1H, J=2.4 Hz), 6.66-6.73 (m, 3H), 7.15 (d, 1H, J=8.3 Hz), 7.51 (d, 1H, J=8.3 Hz), 7.93 (d, 1H, J=16.0 Hz).

reactant | 5-methoxy-2-methyl-phenol | 9.60 mmol, 1.46 g | COC=1C=CC(=C(C1)O)C | C8H10O2
reactant | 3-(4-fluoro-2-methyl-phenyl)-acrylic acid ethyl ester | 4.80 mmol, 1.00 g | C(C)OC(C=CC1=C(C=C(C=C1)F)C)=O | C12H13FO2
reactant | potassium carbonate | 9.60 mmol, 1.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | dimethylsulfoxide | 12 mL | CS(=O)C | C2H6OS
product | 3-[4-(5-Methoxy-2-methyl-phenoxy)-2-methyl-phenyl]-acrylic acid ethyl ester | 0.74 g, 47% | C(C)OC(C=CC1=C(C=C(C=C1)OC1=C(C=CC(=C1)OC)C)C)=O | C20H22O4
